US06716851B2
4-(3,5-Dimethoxyanilino)-6-methyl-2-(2-pyridinyl)-pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3,5-dimethoxyaniline (56 mg, 0.365 mmol) similar to Example 92 and isolated as a tan solid (21 mg, 26%). 1H NMR (CDCl3): 8.83-8.81 (m, 1H), 8.49-8.46 (m, 1H), 7.86-7.80 (m, 1H), 7.39-7.35 (m, 1H), 6.99 (s, 1H), 6.70 (s, 1H), 6.53 (d, J=2.4 Hz, 2H), 6.30 (t, J=2.3 Hz, 1H), 3.82 (s, 6H), 2.51 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3,5-dimethoxyaniline | 0.365 mmol, 56 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
product | 4-(3,5-Dimethoxyanilino)-6-methyl-2-(2-pyridinyl)-pyrimidine hydrochloride | Cl.COC=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=C(C1)OC | InChI=1S/C18H18N4O2.ClH/c1-12-8-17(22-18(20-12)16-6-4-5-7-19-16)21-13-9-14(23-2)11-15(10-13)24-3;/h4-11H,1-3H3,(H,20,21,22);1H
